US04795643
Diltiazem.
HCl: 3-acetoxy-5-(2-dimethylaminoethyl)-2,3-dihydro-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one hydrochloride

reactant | HCl | Cl | ClH
reactant | 3-acetoxy-5-(2-dimethylaminoethyl)-2,3-dihydro-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one hydrochloride | Cl.C(C)(=O)OC1C(SC2=C(N(C1=O)CCN(C)C)C=CC=C2)C2=CC=C(C=C2)OC
product | Diltiazem | CC(=O)O[C@@H]1[C@@H](SC=2C=CC=CC2N(C1=O)CCN(C)C)C=3C=CC(=CC3)OC | C22H26N2O4S
